US04125732
Methyl(m-phenoxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
As described in Example 30, a mixture of 5.2 g of m-phenoxyphenol, 1.06 g of 60% sodium hydride-oil dispersion, 3.82 g of potassium iodide, one ml of hexamethylphosphoramide and 10.4 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 80 ml of tetrahydrofuran is refluxed for 18 hours and worked-up to give 13.6 g of gum. The gum is chromatographed over silica gel with dichloromethane as eluent to give 11.2 g of product as a viscous oil.

reactant | m-phenoxyphenol | 5.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | sodium hydride | 1.06 g | [H-].[Na+]
reactant | potassium iodide | 3.82 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 10.4 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | one ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(m-phenoxyphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 13.6 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C30H27ClO6
